US07781426B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(bromomethyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one (27 mg, 0.0479 mmol) in MeCN (0.5 mL) was added n—PrNH2.HCl (5.5 mg, 0.0575 mmol) and i—Pr2NEt (20.8 μL, 0.120 mmol). The solution was heated at 80° C. for 16 hours. The reaction was then cooled to room temperature and purified by reverse-phase chromatography (C-18, 10 to 95% MeCN/water with 0.1% TFA). The fractions containing the desired product were lyophilized to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-[(propylamino)methyl]-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one (TFA salt). LCMS=543.1 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 9.72 (s, 2H), 7.90 (s, 1H), 7.76 (s, 2H), 7.72 (d, J=6.9 Hz, 1H), 7.56 (d, J=6.4 Hz, 1H), 7.49 (s, 1H), 5.87 (d, J=7.5 Hz, 1H). 4.98 (d, J=15.3 Hz, 1H), 4.35-4.28 (m, 2H), 4.18 (m, 2H), 3.01 (bs, 2H), 1.75-1.60 (m, 2H), 0.96 (m, 3H), 0.90 (d, J=5.5 Hz, 3H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(bromomethyl)-5-(trifluoromethyl)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.0479 mmol, 27 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)CBr)C)(F)F | C21H15BrF9NO2
reactant | n—PrNH2.HCl | 0.0575 mmol, 5.5 mg | C(CC)N.Cl
reactant | i—Pr2NEt | 0.120 mmol, 20.8 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeCN | 0.5 mL | CC#N | C2H3N
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-3-[2-[(propylamino)methyl]-5-(trifluoromethyl)benzyl]-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)CNCCC)C)(F)F | C24H23F9N2O2
